US07064123B1
A mixture comprised of 4-Morpholin-4-yl-4-oxo-2-(benzyl-sulfonylmethyl)-butyric acid (300 mg, 0.84 mmol), EDC (250 mg, 1.3 mmol), HOBt (250 mg, 1.6 mmol) and (2S)-2-amino-1-benzooxazol-2-yl-butan-1-ol (250 mg, 1.2 mmol) was treated with dichloromethyl (4 mL) followed by 4-methylmorpholine (0.5 mL). The mixture was stirred at ambient temperature for 2 hours. After dilution with ethyl acetate (150 mL), the solution was washed with 1N aqueous HCl, water, saturated aqueous NaHCO3 solution and brine, dried with magnesium sulfate and evaporated under vacuum. The crude product was dissolved in dry dichloromethyl (10 mL) and 1,1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one (Dess-Martin periodinane) (500 mg, 1.2 mmol) was added. After stirring at ambient temperature for 1 hour, the mixture was diluted with ethyl acetate (150 mL) and treated with 0.26M Na2SO3 solution in saturated aqueous NaHCO3. The organic phase was washed with saturated aqueous NaHCO3 and brine, dried with magnesium sulfate and evaporated to yield N-[(S)-1-(1-Benzooxazol-2-yl-methanoyl)-propyl]-4-morpholin-4-yl-4-oxo-2-benzylsulfonylmethyl-butyramide (377 mg) as mixture of diastereomers. The product was purified by flash chromatography on silica gel (hexane/ethyl acetate ratio of 1:2 to 1:4); 1H NMR: (DMSO), 8.85 (d, J=6.2 Hz), 8.77 (d, J=6.2 Hz), 1H],, 8.00 (d, J=7.7 Hz), 7.99 (d, J=7.7 Hz), 1H],, 7.90 (d, J=8.2 Hz), 7.89 (d, J=8.2 Hz), 1H], 7.64 (t, J=7.9 Hz, 1H), 7.54 (t, J=7.4 Hz, 1H), 7.42–7.34 (m, 5H), 5.25–5.12 (m, 1H), 4.55–4.38 (m, 2H), 3.60–3.28 (m, 10H), 3.12–3.02 (m, 1H), 2.64–2.50 (m, 2H), 2.08–1.91 (m, 1H), 1.82–1.65 (m, 1H), 0.98 (t, J=7.4 Hz, 3H); MS: (M++1) 542;

reactant | 4-Morpholin-4-yl-4-oxo-2-(benzyl-sulfonylmethyl)-butyric acid | 0.84 mmol, 300 mg | N1(CCOCC1)C(CC(C(=O)O)CS(=O)(=O)CC1=CC=CC=C1)=O | C16H21NO6S
reactant | EDC | 1.3 mmol, 250 mg
reactant | HOBt | 1.6 mmol, 250 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (2S)-2-amino-1-benzooxazol-2-yl-butan-1-ol | 1.2 mmol, 250 mg | N[C@H](C(O)C=1OC2=C(N1)C=CC=C2)CC | C11H14N2O2
reactant | 4-methylmorpholine | 0.5 mL | CN1CCOCC1 | C5H11NO
reactant | Na2SO3 | 0.26M | [O-]S(=O)[O-].[Na+].[Na+]
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | N-[(S)-1-(1-Benzooxazol-2-yl-methanoyl)-propyl]-4-morpholin-4-yl-4-oxo-2-benzylsulfonylmethyl-butyramide | 377 mg | O1C(=NC2=C1C=CC=C2)C(=O)[C@H](CC)NC(C(CC(=O)N2CCOCC2)CS(=O)(=O)CC2=CC=CC=C2)=O | C27H31N3O7S
